US07696223B2
a) 4-Hydroxy-1,9-diphenyl-9H-beta-carboline-3-carboxylic acid ethyl ester
A mixture of 1-bromo-4-hydroxy-9-phenyl-9H-beta-carboline-3-carboxylic acid ethyl ester (91 mg, 0.221 mmol), phenyltributyltin (98 mg, 0.265 mmol), and Pd(PPh3)2Cl2 (8 mg, 0.011 mmol) in DMF (1 mL) was stirred at 130° C. for 40 min. The mixture was then diluted with EtOAc, washed with water and saturated NaCl aqueous solution, respectively; the EtOAc phase was dried over anhydrous sodium sulfate, concentrated, and the residue was purified by column to give a white solid, the desired title compound. The title compound, ESI MS (m/z): 409 (M+H+).

reactant | 1-bromo-4-hydroxy-9-phenyl-9H-beta-carboline-3-carboxylic acid ethyl ester | 0.221 mmol, 91 mg | C(C)OC(=O)C=1N=C(C=2N(C3=CC=CC=C3C2C1O)C1=CC=CC=C1)Br | C20H15BrN2O3
reactant | phenyltributyltin | 0.265 mmol, 98 mg | C1(=CC=CC=C1)[Sn](CCCC)(CCCC)CCCC
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 0.011 mmol, 8 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-Hydroxy-1,9-diphenyl-9H-beta-carboline-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(C=2N(C3=CC=CC=C3C2C1O)C1=CC=CC=C1)C1=CC=CC=C1 | C26H20N2O3
